US05610144
Methyl 3-isocyanatophenylacetate is prepared as follows: at a temperature in the vicinity of -20° C. and under argon, 8.25 g of methyl 3-aminophenylacetate in solution in 100 cm3 of toluene are added to a suspension of 1 g of charcoal and 6 cm3 of diphosgene in 70 cm3 of toluene. The reaction mixture is stirred and maintained at -20° C. for 15 minutes, then, after returning to a temperature in the vicinity of 20° C., heated under reflux for 2 hours and 30 minutes. The mixture is then degassed by bubbling through argon for 30 minutes, filtered on Celite, rinsed with 50 cm3 of dichloromethane and concentrated under reduced pressure at a temperature in the vicinity of 50° C. 9.30 g of methyl 3-isocyanatophenylacetate are thus obtained in the form of a yellow liquid stored under argon and used as it is in subsequent syntheses.

reactant | methyl 3-aminophenylacetate | 8.25 g | NC=1C=C(C=CC1)CC(=O)OC | C9H11NO2
reactant | charcoal | 1 g | C | CH4
reactant | diphosgene | 6 cm3 | O=C(OC(Cl)(Cl)Cl)Cl | C2Cl4O2
solvent | toluene | 100 cm3 | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 70 cm3 | C1(=CC=CC=C1)C | C7H8
product | methyl 3-isocyanatophenylacetate | 9.30 g | N(=C=O)C=1C=C(C=CC1)CC(=O)OC | C10H9NO3
